US05621133
Step 5: [1R*,8S*,9aR*]5,6-Dimethoxy-8-phenyl-2,3,7,8,9,9a-hexahydrophenalene-1-carboxylic Acid
Crude [1R*,8S*,9aR*]1-Carbomethoxy-5,6-dimethoxy-8-phenyl-2,3,7,8,9,9a-hexahydrophenalene (0.8 g., 2.1 mmol), from Step 4, was dissolved in 100 mL of methanol and 8 mL of 1N aqueous sodium hydroxide solution was added. After stirring for 3 days at ambient temperature, the methanol was removed under reduced pressure. The residue was partitioned between 50 mL of diethyl ether and 75 mL of water. The aqueous phase was acidified to pH 2 with 6M aqueous hydrochloric acid solution and extracted with 3×25 mL of 1:1 ethyl acetate/diethyl ether. The combined organic layers were washed with brine, dried over anhydrous magnesium sulfate, filtered and concentrated in vacuo to give 0.74 g (100% yield) of the title compound as an oil; DCI MS: 253 (M+H)+. 1H NMR (CDCl3) δ: 2.0-2.3 (m, 2H), 2.65-2.85 (m, 2H), 2.9-3.1 (m, 6H), 3.2-3.3 (m, 1H), 3.73 (s, 3H), 3.83 (s, 3H), 6.56 (s, 1H), 7.2-7.4 (m, 5H).

reactant | [1R*,8S*,9aR*]1-Carbomethoxy-5,6-dimethoxy-8-phenyl-2,3,7,8,9,9a-hexahydrophenalene | 2.1 mmol, 0.8 g | C(=O)(OC)[C@@H]1CCC2=CC(=C(C=3C[C@H](C[C@H]1C23)C2=CC=CC=C2)OC)OC | C23H26O4
reactant | sodium hydroxide | 1N, 8 mL | [OH-].[Na+]
solvent | methanol | 100 mL | CO | CH4O
product | [1R*,8S*,9aR*]5,6-Dimethoxy-8-phenyl-2,3,7,8,9,9a-hexahydrophenalene-1-carboxylic Acid | 0.74 g, 100% yield | COC=1C=C2CC[C@H]([C@H]3C[C@@H](CC(C1OC)=C32)C3=CC=CC=C3)C(=O)O | C22H24O4
